US08895761B2
To a solution of 4-bromo-2-ethyl-1-iodobenzene (80 g, 0.25 mol) in tetrahydrofuran (800 ml) at −75° C. is added n-butyl lithium (1.6 M in hexanes, 188 ml, 0.3 mol) dropwise maintaining the temperature of the reaction mixture below −70° C. When the addition is complete the mixture is stirred at −75° C. for an additional 30 minutes and then trimethyl borate (153.7 g, 1.48 mol) is added dropwise. After the addition is complete the reaction is stirred at −75° C. for 1 hour, then allowed to come to room temperature and stirred for 2 hours, followed by cooling in an ice bath and acidification with 0.5 N aqueous hydrochloric acid. The mixture is extracted with ethyl acetate (3×500 ml) and the organic fractions are combined, washed with brine, then dried over anhydrous sodium sulphate. The mixture is filtered and the filtrate is evaporated under reduced pressure. The residue is purified by column chromatography on silica gel to give 4-bromo-2-ethylphenylboronic acid (26 g) as a white solid.

reactant | 4-bromo-2-ethyl-1-iodobenzene | 0.25 mol, 80 g | BrC1=CC(=C(C=C1)I)CC | C8H8BrI
reactant | n-butyl lithium | 0.3 mol, 1.6 M, 188 ml | C(CCC)[Li]
reactant | trimethyl borate | 1.48 mol, 153.7 g | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
product | 4-bromo-2-ethylphenylboronic acid | 26 g | BrC1=CC(=C(C=C1)B(O)O)CC | C8H10BBrO2
